### PR TITLE
feat(LinearAlgebra/TensorProduct): port lifts API from PiTensorProduct

### PR DESCRIPTION
**Pull request by mpacholski**
Port the `lifts` API from `PiTensorProduct` to the binary `TensorProduct` in `Mathlib/LinearAlgebra/TensorProduct/Basic.lean`.

This API provides the necessary machinery to represent any tensor element as a formal sum of pure generators in the free monoid, which is a key prerequisite for defining and proving properties of the binary projective seminorm.

It is a direct reflection of lifts API in `Mathlib/LinearAlgebra/PiTensorProduct/Basic.lean`.

Specifically, add:
- `FreeAddMonoid.toTensorProduct`: proves that the image of a free monoid element is the sum of its pure tensor components.
- `lifts`: defines the set of all valid monoid representations of a given tensor.
- `nonempty_lifts`: proves that every tensor has at least one representation.
- `lifts_zero`, `lifts_add`, `lifts_smul`: establish the algebraic behavior of lifts under addition, zero, and scalar multiplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #41731

### CODE REVIEW

**Comment by themathqueen** [comment]
Same thing here, please add a depends on in the description :)

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 1]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
     liftAddHom f hf (m ⊗ₜ n) = f m n :=
   rfl
 
+/-- The image of an element `p` of `FreeAddMonoid (M × N)` in the `TensorProduct` is
+equal to the sum of `x ⊗ₜ y` over all the entries `(x, y)` of `p`.
+-/
+lemma _root_.FreeAddMonoid.toTensorProduct (p : FreeAddMonoid (M × N)) :
+    AddCon.toQuotient (c := addConGen (TensorProduct.Eqv R M N)) p =
+    (p.toList.map (fun x ↦ x.1 ⊗ₜ[R] x.2)).sum := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:90]:
```suggestion
      (p.toList.map (fun x ↦ x.1 ⊗ₜ[R] x.2)).sum := by
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 2]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
     liftAddHom f hf (m ⊗ₜ n) = f m n :=
   rfl
 
+/-- The image of an element `p` of `FreeAddMonoid (M × N)` in the `TensorProduct` is
+equal to the sum of `x ⊗ₜ y` over all the entries `(x, y)` of `p`.
+-/
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:87]:
```suggestion
equal to the sum of `x ⊗ₜ y` over all the entries `(x, y)` of `p`. -/
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 3]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
...
+def lifts (x : M ⊗[R] N) : Set (FreeAddMonoid (M × N)) :=
+  {p | AddCon.toQuotient (c := addConGen (TensorProduct.Eqv R M N)) p = x}
+
+lemma mem_lifts_iff (x : M ⊗[R] N) (p : FreeAddMonoid (M × N)) :
+    p ∈ lifts x ↔ List.sum (List.map (fun x ↦ x.1 ⊗ₜ[R] x.2) p.toList) = x := by
+  simp only [lifts, Set.mem_ofPred_eq, FreeAddMonoid.toTensorProduct]
+  rfl
+
+/-- Every element of `M ⊗[R] N` has a lift in `FreeAddMonoid (M × N)`.
+-/
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:107]:
```suggestion
/-- Every element of `M ⊗[R] N` has a lift in `FreeAddMonoid (M × N)`. -/
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 4]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
...
+lemma nonempty_lifts (x : M ⊗[R] N) : Set.Nonempty (lifts x) := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:108]:
```suggestion
lemma nonempty_lifts (x : M ⊗[R] N) : x.lifts.Nonempty := by
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 5]
```diff
@@ -167,6 +223,17 @@ theorem ext {g h : M ⊗ N →ₛₗ[σ₁₂] P₂} (H : (mk R M N).compr₂ₛ
...
 attribute [local ext high] ext
 
+@[simp]
+theorem lift_add (f g : M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) : lift (f + g) = lift f + lift g := by
+  ext x y
+  exact LinearMap.congr_fun₂ rfl x y
+
+@[simp]
+lemma lift_smul (c : R₂) (f : M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) :
+    TensorProduct.lift (c • f) = c • TensorProduct.lift f := by
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:233]:
```suggestion
    lift (c • f) = c • lift f := by
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 6]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
...
+  rw [mem_lifts_iff, FreeAddMonoid.toList_zero, List.map_nil, List.sum_nil]
+
+set_option backward.isDefEq.respectTransparency false in
+/-- If elements `p, q` of `FreeAddMonoid (M × N)` lift elements `x, y` of `M ⊗[R] N`
+respectively, then `p + q` lifts `x + y`.
+-/
+lemma lifts_add {x y : M ⊗[R] N} {p q : FreeAddMonoid (M × N)}
+    (hp : p ∈ lifts x) (hq : q ∈ lifts y) : p + q ∈ lifts (x + y) := by
+  simp only [lifts, Set.mem_ofPred_eq, AddCon.coe_add]
+  rw [hp, hq]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:126]:
```suggestion
  simp_all [lifts]
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 7]
```diff
@@ -167,6 +223,17 @@ theorem ext {g h : M ⊗ N →ₛₗ[σ₁₂] P₂} (H : (mk R M N).compr₂ₛ
 
 attribute [local ext high] ext
 
+@[simp]
+theorem lift_add (f g : M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) : lift (f + g) = lift f + lift g := by
+  ext x y
+  exact LinearMap.congr_fun₂ rfl x y
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:229]:
```suggestion
  ext; rfl
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 8]
```diff
@@ -167,6 +223,17 @@ theorem ext {g h : M ⊗ N →ₛₗ[σ₁₂] P₂} (H : (mk R M N).compr₂ₛ
...
+
+@[simp]
+lemma lift_smul (c : R₂) (f : M →ₛₗ[σ₁₂] N →ₛₗ[σ₁₂] P₂) :
+    TensorProduct.lift (c • f) = c • TensorProduct.lift f := by
+  ext x y
+  exact LinearMap.congr_fun₂ rfl x y
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:235]:
```suggestion
  ext; rfl
```

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 9]
```diff
@@ -82,6 +82,62 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
...
+  | zero => rfl
+  | of_add b a ih =>
+    rw [FreeAddMonoid.toList_of_add, List.map_cons, List.sum_cons, ← ih]
+    rfl
+
+/-- The set of lifts of an element `x` of `M ⊗[R] N` in `FreeAddMonoid (M × N)`. -/
+def lifts (x : M ⊗[R] N) : Set (FreeAddMonoid (M × N)) :=
+  {p | AddCon.toQuotient (c := addConGen (TensorProduct.Eqv R M N)) p = x}
+
+lemma mem_lifts_iff (x : M ⊗[R] N) (p : FreeAddMonoid (M × N)) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:101]:
```suggestion
lemma mem_lifts_iff {x : M ⊗[R] N} {p : FreeAddMonoid (M × N)} :
```

**Review by themathqueen — COMMENTED** [review]
here are some comments

**Comment by mpacholski** [comment]
@themathqueen Thank you for the suggestions! Sorry taking so long, but I was on vacation.

**Comment by mpacholski** [comment]
-awaiting-author

File: Mathlib/LinearAlgebra/TensorProduct/Basic.lean [hunk 10]
```diff
@@ -81,6 +81,59 @@ theorem liftAddHom_tmul (f : M →+ N →+ P)
...
+/-- The image of an element `p` of `FreeAddMonoid (M × N)` in the `TensorProduct` is
+equal to the sum of `x ⊗ₜ y` over all the entries `(x, y)` of `p`. -/
+lemma _root_.FreeAddMonoid.toTensorProduct (p : FreeAddMonoid (M × N)) :
+    AddCon.toQuotient (c := addConGen (TensorProduct.Eqv R M N)) p =
+      (p.toList.map (fun x ↦ x.1 ⊗ₜ[R] x.2)).sum := by
+  induction p using FreeAddMonoid.inductionOn' with
+  | zero => rfl
+  | of_add b a ih =>
+    rw [FreeAddMonoid.toList_of_add, List.map_cons, List.sum_cons, ← ih]
+    rfl
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/TensorProduct/Basic.lean:93]: this lemma looks weird. how about we make this an actual definition?

```suggestion
def _root_.FreeAddMonoid.toTensorProduct : FreeAddMonoid (M × N) →+ M ⊗[R] N :=
  FreeAddMonoid.lift fun y ↦ y.1 ⊗ₜ[R] y.2
```

and then your `lifts` definition would be `FreeAddMonoid.toTensorProduct R ⁻¹' {x}`.

What do you think?
